US06933290B2
(S)-2-(3-Isopropyl-phenylamino)-N-{(S)-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-3-(3,4,5-trimethoxy-phenyl)-propionamide
The title compound is prepared as described in example 1 but using {(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester and (S)-2-(3-Isopropyl-phenylamino)-3-(3,4,5-trimethoxyphenyl)-propionic acid.

reactant | {(S)-1-[(R)-3-Methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)=O | C23H41BN2O5
reactant | (S)-2-(3-Isopropyl-phenylamino)-3-(3,4,5-trimethoxyphenyl)-propionic acid | C(C)(C)C=1C=C(C=CC1)N[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC | C21H27NO5
product | (S)-2-(3-Isopropyl-phenylamino)-N-{(S)-1-[(R)-3-methyl-1-((1S,2S,6R,8S)-2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-butylcarbamoyl]-ethyl}-3-(3,4,5-trimethoxy-phenyl)-propionamide | C(C)(C)C=1C=C(C=CC1)N[C@H](C(=O)N[C@@H](C)C(N[C@@H](CC(C)C)B1O[C@]2([C@@H]3C([C@H](C[C@H]2O1)C3)(C)C)C)=O)CC3=CC(=C(C(=C3)OC)OC)OC | C39H58BN3O7
